US04616026
alpha,alpha-Difluoro-4-fluorophenylacetic acid [1.0 g, prepared from 4-fluorobromobenzene according to the method of Middleton and Bingham, J. Org. Chem., 45, 2883 (1980)] was stirred under nitrogen with thionyl chloride (0.69 g) and dry N,N-dimethylformamide (0.036 g) at room temperature for 15 minutes and then at 70°-75° C. for one hour. The solution was cooled in ice and N,O-dimethylhydroxylamine hydrochloride (0.62 g), dry pyridine (1.5 g) and methylene chloride (15 ml) were added and the mixture stirred at 0° C. for 20 minutes and at room temperature for a further 30 minutes. Water (10 ml) was added and the methylene chloride layer separated. The aqueous phase was extracted with methylene chloride (2×20 ml) and the combined organic extracts were dried over MgSO4 and evaporated. The residue was chromatographed on silica, eluting with methylene chloride to give N-methoxy-N-methyl-alpha,alpha-difluoro-4-fluorophenyl acetamide (1.13 g).

reactant | alpha,alpha-Difluoro-4-fluorophenylacetic acid | FC(C(=O)O)(F)C1=CC=C(C=C1)F | C8H5F3O2
reactant | 4-fluorobromobenzene | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | thionyl chloride | 0.69 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.036 g | CN(C=O)C | C3H7NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.62 g | Cl.CNOC
solvent | Water | 10 ml | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.5 g | N1=CC=CC=C1 | C5H5N
product | N-methoxy-N-methyl-alpha,alpha-difluoro-4-fluorophenyl acetamide | 1.13 g | CON(C(C(F)(F)C1=CC=C(C=C1)F)=O)C | C10H10F3NO2
